US08110642B2
This Example was carried out in the same manner as Example 1, except that 5.0 g (0.032 mol) of 3-chloro-phenyl boronic acid, 10.0 g (0.064 mol) of 2-bromopyridine, 150□ of tetrahydrofuran and 2M potassium carbonate solution (20□) were added and then 0.37 g (3 mol %) of palladium tetrakistriphenylphosphine [(pd(PPh3)4] was used as a catalyst. Finally, after the resulting solution was heated to reflux at 80° C. for 24 hours, the 2-(3-chloro-phenyl)pyridine was isolated. The yield was 55%.

reactant | 3-chloro-phenyl boronic acid | 0.032 mol, 5.0 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 2-bromopyridine | 0.064 mol, 10.0 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
catalyst | pd(PPh3)4 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3-chloro-phenyl)pyridine | yield was 55% | ClC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8ClN
